US07705025B2
[4-(5-Oxazol-5-yl-thiophen-2-yl)-phenyl]-(2(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone
The title compound is prepared in a manner substantially analogous to General Procedure D in 9 mL 50% DMF/dichloromethane using 4-(5-oxazol-5-yl-thiophen-2-yl)-benzoic acid (133 mg, 0.49 mmol), EDC-HCl (143 mg, 0.75 mmol), HOBt (101 mg, 0.75 mmol), DIEA (0.22 mL, 1.5 mmol) and (S)(+)-1-(2-pyrrolidinylmethyl)pyrrolidine (63 mg, 0.41 mmol) to give the title compound (80 mg, 48% yield). MS (ES+) 408.3 (M+H)+

reactant | 4-(5-oxazol-5-yl-thiophen-2-yl)-benzoic acid | 0.49 mmol, 133 mg | O1C=NC=C1C1=CC=C(S1)C1=CC=C(C(=O)O)C=C1 | C14H9NO3S
reactant | EDC-HCl | 0.75 mmol, 143 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 0.75 mmol, 101 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 1.5 mmol, 0.22 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)(+)-1-(2-pyrrolidinylmethyl)pyrrolidine | 0.41 mmol, 63 mg | N1[C@@H](CCC1)CN1CCCC1 | C9H18N2
solvent | DMF dichloromethane | 9 mL | CN(C)C=O.ClCCl
product | [4-(5-Oxazol-5-yl-thiophen-2-yl)-phenyl]-(2(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | 80 mg, 48% yield | O1C=NC=C1C1=CC=C(S1)C1=CC=C(C=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C23H25N3O2S
